US04863935
N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine (300 mg) and morpholine (162 μl) were subjected to similar reactions to those described in References 2 and 4 to give 2-morpholinocarbonylthioethylamine (crude formate: 134 mg). The product was dissolved in anhydrous methanol (3 ml). To the reaction solution were added triethylamine (486 μl) and mitomycin A (195 mg: 0.8 molar equivalent). The mixture was treated in a similar manner to that described in Example 1 to obtain Compound 33 (176 mg) in the form of grayish blue powders with a yield of 50%.

reactant | N-triphenylmethyl-2-paranitrophenoxycarbonylthioethylamine | 300 mg | C1(=CC=CC=C1)C(NCCSC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1 | C28H24N2O4S
reactant | morpholine | 162 μl | N1CCOCC1 | C4H9NO
product | 2-morpholinocarbonylthioethylamine | 134 mg | O1CCN(CC1)C(=O)SCCN | C7H14N2O2S
